US08003651B2
A solution of tert-butyl 3-(4-chlorophenyl)-3-(1-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-4-carbonyl)pyrrolidine-1-carboxylate (25 mg, 0.048 mmol) in DCM (2.5 mL) was added to a 4.0M HCl solution in dioxane (0.8 mL). The mixture was stirred at room temperature overnight. The solvents were removed in vacuo to give (3-(4-chlorophenyl)pyrrolidin-3-yl)(4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)methanone dihydrochloride (24 mg, 100%). LCMS (APCI+) [M+H]+ 426.2; Rt: 2.09.

reactant | tert-butyl 3-(4-chlorophenyl)-3-(1-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-4-carbonyl)pyrrolidine-1-carboxylate | 0.048 mmol, 25 mg | ClC1=CC=C(C=C1)C1(CN(CC1)C(=O)OC(C)(C)C)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CC[C@H]2C | C28H36ClN5O3
reactant | HCl | 4.0M | Cl | ClH
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 0.8 mL | O1CCOCC1 | C4H8O2
product | (3-(4-chlorophenyl)pyrrolidin-3-yl)(4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)methanone dihydrochloride | 24 mg, 100% | Cl.Cl.ClC1=CC=C(C=C1)C1(CNCC1)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CC[C@H]2C | InChI=1S/C23H28ClN5O.2ClH/c1-16-2-7-19-20(16)21(27-15-26-19)28-10-12-29(13-11-28)22(30)23(8-9-25-14-23)17-3-5-18(24)6-4-17;;/h3-6,15-16,25H,2,7-14H2,1H3;2*1H/t16-,23?;;/m1../s1
